US06686369B1
Ethyl 2-Hydroxy-3,3-diphenylbutyrate
2.15 g (8.4 mmol) of 2-hydroxy-3,3-diphenylbutyramide were dissolved in 15 ml of ethanol, 15 ml of conc. HCI were added and the mixture was refluxed for 40 hours. The solvent was stripped off under reduced pressure, and the residue was taken up in water. The aqueous phase was extracted three times with ethyl acetate, and the combined organic phases were washed twice with 10% strength sodium hydroxide solution. Drying with MgSO4 and stripping off the solvent under reduced pressure resulted in 1.75 g (73%) of ethyl 2-hydroxy-3,3-diphenylbutyrate.

reactant | 2-hydroxy-3,3-diphenylbutyramide | 8.4 mmol, 2.15 g | OC(C(=O)N)C(C)(C1=CC=CC=C1)C1=CC=CC=C1 | C16H17NO2
reactant | ethanol | 15 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | Ethyl 2-Hydroxy-3,3-diphenylbutyrate | OC(C(=O)OCC)C(C)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H20O3
